data/polar.json
{"reaction_name": "Neutral lone-pair capture of a preformed localized carbocation", "rsmi": "[OH:1][CH3:6].[cH:2]1[c:7]([CH+:19][c:8]2[cH:3][c:11]([F:15])[cH:18][c:12]([F:16])[cH:4]2)[cH:5][c:9]([F:13])[cH:17][c:10]1[F:14]>>[OH+:1]([CH3:6])[CH:19]([c:7]1[cH:2][c:10]([F:14])[cH:17][c:9]([F:13])[cH:5]1)[c:8]1[cH:3][c:11]([F:15])[cH:18][c:12]([F:16])[cH:4]1", "epd": [["LP-/Sigma+", [1], [1, 19]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:1]=[S:12](=[O:2])([N:11]([S:9][C:5]([F:6])([F:7])[F:8])[S:13](=[O:3])(=[O:4])[c:36]1[cH:16][cH:27][cH:21][cH:28][cH:17]1)[c:35]1[cH:14][cH:25][cH:20][cH:26][cH:15]1.[cH:10]1[cH:29][cH:18][c:34]([C:31](=[C:22]2[N:23]([CH3:39])[C:32]([CH3:38])=[C:41]([CH3:40])[S:33]2)[O:37][CH3:24])[cH:19][cH:30]1>>[C:5]([F:6])([F:7])([F:8])[S:9][C:31]([c:22]1[n+:23]([CH3:39])[c:32]([CH3:38])[c:41]([CH3:40])[s:33]1)([c:34]1[cH:18][cH:29][cH:10][cH:30][cH:19]1)[O:37][CH3:24].[O:1]=[S:12](=[O:2])([N-:11][S:13](=[O:3])(=[O:4])[c:36]1[cH:16][cH:27][cH:21][cH:28][cH:17]1)[c:35]1[cH:14][cH:25][cH:20][cH:26][cH:15]1", "epd": [["LP-/Pi+", [23], [22, 23]], ["Pi-/Sigma+", [31, 22], [31, 9]], ["Sigma-/LP+", [9, 11], [11]]]}
{"reaction_name": "Epoxide polymerization", "rsmi": "[H:2][O-:5].[O:1]1[CH2:3][CH2:4]1>>[O-:1][CH2:4][CH2:3][O:5][H:2]", "epd": [["LP-/Sigma+", [5], [3, 5]], ["Sigma-/LP+", [1, 3], [1]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:7][O:6][C:26]([CH:2]=[C:8]([CH3:27])[N:42]=[N:19][C:3](=[O:20])[NH:24][c:28]1[cH:40][cH:15][cH:29][cH:16][cH:41]1)=[O:21].[N:4]1([c:9]2[c:36]([CH3:11])[cH:32][c:22]([CH3:17])[cH:35][c:39]2[CH3:14])[CH:31]=[CH:30][N:5]([c:10]2[c:37]([CH3:12])[cH:33][c:23]([CH3:18])[cH:34][c:38]2[CH3:13])[C:43]1=[CH2:25]>>[CH3:1][CH2:7][O:6][C:26]([CH:2]([C:8]([CH3:27])=[N:42][N:19]=[C:3]([O-:20])[NH:24][c:28]1[cH:40][cH:15][cH:29][cH:16][cH:41]1)[CH2:25][c:43]1[n+:4](-[c:9]2[c:36]([CH3:11])[cH:32][c:22]([CH3:17])[cH:35][c:39]2[CH3:14])[cH:31][cH:30][n:5]1-[c:10]1[c:37]([CH3:12])[cH:33][c:23]([CH3:18])[cH:34][c:38]1[CH3:13])=[O:21]", "epd": [["LP-/Pi+", [4], [43, 4]], ["Pi-/Sigma+", [25, 43], [25, 2]], ["Pi-/Pi+", [2, 8], [8, 42]], ["Pi-/Pi+", [42, 19], [19, 3]], ["Pi-/LP+", [3, 20], [20]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:2]=[S:14](=[O:3])([N:13]([S:10][C:6]([F:7])([F:8])[F:9])[S:15](=[O:4])(=[O:5])[c:34]1[cH:19][cH:29][cH:22][cH:30][cH:20]1)[c:33]1[cH:17][cH:27][cH:21][cH:28][cH:18]1.[cH:1]1[cH:23][cH:12][c:31]2[c:11]([cH:35]1)[CH:36]([Zn-:26]([Cl:24])[Cl:25])[CH:32]=[CH:16]2>>[Cl:24][Zn:26][Cl:25].[O:2]=[S:14](=[O:3])([N-:13][S:15](=[O:4])(=[O:5])[c:34]1[cH:19][cH:29][cH:22][cH:30][cH:20]1)[c:33]1[cH:17][cH:27][cH:21][cH:28][cH:18]1.[cH:1]1[cH:23][cH:12][c:31]2[c:11]([cH:35]1)[CH:36]([S:10][C:6]([F:7])([F:8])[F:9])[CH:32]=[CH:16]2", "epd": [["Sigma-/Sigma+", [36, 26], [36, 10]], ["Sigma-/LP+", [10, 13], [13]]]}
{"reaction_name": "Iodonium-promoted rearrangement", "rsmi": "[CH2:1]=[CH:2][CH3:4].[I+:3]>>[CH2:1]1[CH:2]([CH3:4])[I+:3]1", "epd": [["Pi-/Sigma+", [1, 2], [2, 3]], ["LP-/Sigma+", [3], [1, 3]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:5](=[O:2])([N:13]=[C:11]=[O:20])[c:23]1[cH:7][cH:3][c:21]([CH3:24])[cH:4][cH:8]1.[cH:6]1[cH:14][cH:10][c:18]2[c:9]([cH:22]1)[CH:25]([Zn-:17]([Cl:15])[Cl:16])[CH:19]=[CH:12]2>>[Cl:15][Zn:17][Cl:16].[O:1]=[S:5](=[O:2])([N-:13][C:11](=[O:20])[CH:25]1[c:9]2[c:18]([cH:10][cH:14][cH:6][cH:22]2)[CH:12]=[CH:19]1)[c:23]1[cH:7][cH:3][c:21]([CH3:24])[cH:4][cH:8]1", "epd": [["Sigma-/Sigma+", [25, 17], [25, 11]], ["Pi-/LP+", [11, 13], [13]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:52](=[O:2])([c:16]1[cH:4][cH:12][c:23]([CH3:53])[cH:13][cH:5]1)[n:36]1[cH:15][c:21]([N+:20](=[O:6])[O-:7])[c:22]2[cH:11][cH:45][c:14]([N+:51](=[O:49])[O-:50])[cH:3][c:43]21.[c:8]1([P:44]([c:9]2[cH:25][cH:31][c:47]([N:18]([CH3:39])[CH3:40])[cH:32][cH:26]2)[c:10]2[cH:27][cH:33][c:48]([N:19]([CH3:41])[CH3:42])[cH:34][cH:28]2)[cH:24][cH:30][c:46]([N:17]([CH3:37])[CH3:38])[cH:35][cH:29]1>>[O:1]=[S:52](=[O:2])([c:16]1[cH:4][cH:12][c:23]([CH3:53])[cH:13][cH:5]1)[N:36]1[CH:15]([P+:44]([c:8]2[cH:24][cH:30][c:46]([N:17]([CH3:37])[CH3:38])[cH:35][cH:29]2)([c:9]2[cH:25][cH:31][c:47]([N:18]([CH3:39])[CH3:40])[cH:32][cH:26]2)[c:10]2[cH:27][cH:33][c:48]([N:19]([CH3:41])[CH3:42])[cH:34][cH:28]2)[C:21](=[N+:20]([O-:6])[O-:7])[c:22]2[cH:11][cH:45][c:14]([N+:51](=[O:49])[O-:50])[cH:3][c:43]21", "epd": [["LP-/Sigma+", [44], [44, 15]], ["Pi-/Pi+", [15, 21], [21, 20]], ["Pi-/LP+", [20, 6], [6]]]}
{"reaction_name": "Nitrile oxide formation", "rsmi": "[O:1]([N:4]=[C:5]([CH3:2])[Cl:6])[H:7].[OH-:3]>>[Cl-:6].[O-:1][N+:4]#[C:5][CH3:2].[OH:3][H:7]", "epd": [["LP-/Pi+", [4], [4, 5]], ["Sigma-/LP+", [5, 6], [6]], ["LP-/Sigma+", [3], [3, 7]], ["Sigma-/LP+", [1, 7], [1]]]}
